US08003785B2
To a mixture of 0.5432 g (1.91 mmole) of 4-amino-3-methoxy-benzoic acid benzotriazol-1-yl ester, 0.4187 g (1.91 mmole) of 1-(2-fluoro-ethyl)-piperidin-4-ylamine dihydrochloride and 8 mL of dimethylformamide was added 1.3316 mL of triethylamine. The mixture was stirred for 25 hours, then taken up in ethyl acetate and twice with 50 mL 0.5 M sodium carbonate, once with 50 mL water, once with 50 mL brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with acetonitrile-methanol-triethylamine (90:10:0.8), to give 0.4159 g 4-amino-N-[1-(2-fluoro-ethyl)-piperidin-4-yl]-3-methoxy-benzamide.

reactant | 4-amino-3-methoxy-benzoic acid benzotriazol-1-yl ester | 1.91 mmole, 0.5432 g | N1(N=NC2=C1C=CC=C2)OC(C2=CC(=C(C=C2)N)OC)=O | C14H12N4O3
reactant | 1-(2-fluoro-ethyl)-piperidin-4-ylamine dihydrochloride | 1.91 mmole, 0.4187 g | Cl.Cl.FCCN1CCC(CC1)N
reactant | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
reactant | sodium carbonate | 0.5 M, 50 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | 50 mL | [Cl-].[Na+].O
solvent | water | 50 mL | O | H2O
solvent | triethylamine | 1.3316 mL | C(C)N(CC)CC | C6H15N
product | 4-amino-N-[1-(2-fluoro-ethyl)-piperidin-4-yl]-3-methoxy-benzamide | 0.4159 g | NC1=C(C=C(C(=O)NC2CCN(CC2)CCF)C=C1)OC | C15H22FN3O2
